* Test DC mode support for FIND and FIND-WHEN Measures
*
* This bug covers:
*   1) the case of one variable in the .DC line,
*      without a .STEP statement.
*
*
* See SON Bug 1270 for more details.
********************************************************

vsrc1   1a 0 1
rload1a 1a 1b 0.2
rload1b 1b 1c 0.4
rload1c 1c 0  0.4

.DC vsrc1 1 5 1

* Note: vsrc1:DCV0 is the syntax for printing the DC value of vsrc1,
* at it is swept.
.print dc vsrc1:DCV0 v(1a) v(1b) v(1c)

* WHEN
.MEASURE DC whenv1b2 WHEN v(1b)=2

* FIND-WHEN
.MEASURE DC findv1cwhenv1b2 find v(1c) when v(1b)=2

* Expressions with WHEN measure
.MEASURE DC whenExp1 when {v(1b)+1}=4
.MEASURE DC whenExp2 when v(1b)={v(1c)+1.2}
.MEASURE DC whenExp3 when {v(1b)-1}=v(1c)

* Expressions, with FIND-WHEN measure
.MEASURE DC findv1cwhenv1bExp1 find v(1c) when {v(1b)+1}=4
.MEASURE DC findv1cwhenv1bExp2 find {v(1c)+1} when {v(1b)+1}=4

* Use of other measures in WHEN and FIND-WHEN
.MEASURE DC eqnv1c EQN {v(1c)}
.MEASURE DC wheneqnv1c when EQNV1C=1.5
.MEASURE DC findwheneqnv1c find eqnv1c when v(1b)=3

* FROM=TO value should work in this case, even though this
* is a pathological case
.MEASURE DC findwhen1Pt FIND v(1c) WHEN v(1a)=2 FROM=2 TO=2

* measures should fail
.measure dc FAIL1 WHEN v(1b)=10
.measure dc FAIL2 FIND v(1c) WHEN v(1b)=10

* Tests should return -1 or -100, since the FROM-T0 window
* does not overlap with the stepped values for VSRC1:DCV0
.MEASURE DC whenReturnNegOne WHEN v(1b)=2 FROM=-4 TO=-2
.MEASURE DC whenReturnNeg100 WHEN v(1b)=2 FROM=-2 TO=-4 DEFAULT_VAL=-100

.end
