* Test DC mode support for FIND-AT, FIND-WHEN and WHEN Measures.
*
* This bug covers:
*   1) the case of one variable in the .DC line,
*      without a .STEP statement.
*
*
* See SON Bug 1270 for more details.
********************************************************

vsrc1   1a 0 1
rload1a 1a 1b 0.2
rload1b 1b 1c 0.4
rload1c 1c 0  0.4

B2 2 0 V={(V(1a)-3)*(V(1a)-3)}
R2 2 0 1

.DC vsrc1 1 5 1

* Note: vsrc1:DCV0 is the syntax for printing the DC value of vsrc1,
* at it is swept.
.print dc vsrc1:DCV0 v(1a) v(1b) v(1c) v(2)

* WHEN
.MEASURE DC whenv1b2 WHEN v(1b)=2

* FIND-WHEN
.MEASURE DC findv1cwhenv1b2 find v(1c) when v(1b)=2

* FIND-AT
.MEASURE DC v1bat1 find v(1b) at=1 ; first sweep value
.MEASURE DC v1bat2 find v(1b) at=2
.MEASURE DC v1bat2.5 find v(1b) at=2.5
.MEASURE DC v1bexpat2.5 find {v(1b)+1} at=2.5

* Expressions with WHEN measure
.MEASURE DC whenExp1 when {v(1b)+1}=4
.MEASURE DC whenExp2 when v(1b)={v(1c)+1.2}
.MEASURE DC whenExp3 when v(1b)={v(1c)+1}
.MEASURE DC whenExp4 when {v(1b)-1}=v(1c)

* Expressions, with FIND-WHEN measure
.MEASURE DC findv1cwhenv1bExp1 find v(1c) when {v(1b)+1}=4
.MEASURE DC findv1cwhenv1bExp2 find {v(1c)+1} when {v(1b)+1}=4

* Use of other measures in WHEN and FIND-WHEN
.MEASURE DC eqnv1c EQN {v(1c)}
.MEASURE DC wheneqnv1c when EQNV1C=1.5
.MEASURE DC findwheneqnv1c find eqnv1c when v(1b)=3

* FROM
.MEASURE DC whenv2from1 WHEN v(2)=2 FROM=3

* Test that the interpolated WHEN frequency is within the measure window.
* So, the first and third measures should find the first time v(2)=2.
* The second one should find the second time.
.MEASURE DC whenv2from2 WHEN v(2)=2 FROM=1.5
.MEASURE DC whenv2from3 WHEN v(2)=2 FROM=1.8
.MEASURE DC whenv2from4 WHEN v(2)=2 FROM=1.5 TO=1.8

* This should get the same value as the whenv2from4 measure
.MEASURE DC whenv2from5 WHEN v(2)=2 TO=1.5 FROM=1.8

* The TO2 measure should fail, since the TO1 measure succeeds
* at a sweep value of 1.33
.MEASURE DC TO1 WHEN V(2)=3 TO=1.5
.MEASURE DC TO2 WHEN V(2)=3 TO=1.1

* FROM=TO value should work in this case, even though this
* is a pathological case
.MEASURE DC findwhen1Pt FIND v(1c) WHEN v(1a)=2 FROM=2 TO=2

* measures should fail
.measure dc FAIL1 WHEN v(1b)=10
.measure dc FAIL2 FIND v(1c) WHEN v(1b)=10
.measure dc FAIL3 FIND v(1c) AT=10

* Test case of both FROM and TO given, but both are outside of the
* measurement window
.measure dc FAIL4 WHEN v(2)=2 FROM=6 TO=10
.measure dc FAIL5 WHEN v(2)=2 FROM=-5 TO=0

* Tests should return -1 or -100, since the FROM-T0 window
* does not overlap with the stepped values for VSRC1:DCV0
.MEASURE DC whenReturnNegOne WHEN v(1b)=2 FROM=-4 TO=-2
.MEASURE DC whenReturnNeg100 WHEN v(1b)=2 FROM=-2 TO=-4 DEFAULT_VAL=-100

* FROM and TO qualifiers take precedence over AT.
* So, these are failed measures.
.MEASURE DC atFailFrom FIND V(1b) AT=1 FROM=3 TO=4
.MEASURE DC atFailTo find V(1b) AT=2 TO=1

.end
